US06566362B2
A suspension of 37.7 g of ethyl 6,7-difluoroquinoline-3-carboxylate in a mixture of 20 cm3 of ethanol and 160 cm3 of a 1 N aqueous potassium hydroxide solution was stirred for 4 hours, at a temperature of 20° C. 600 cm3 of water was added to the solution and the insoluble material was extracted twice with 400 cm3 of diethyl ether. The aqueous solution was neutralized with 161 cm3 of a 1 N aqueous hydrochloric acid solution. The precipitate obtained was dewatered, washed 3 times with 150 cm3 of water, and dried under vacuum at a temperature of 50° C. 30 g of 6,7-difluoroquinoline-3-carboxylic acid was obtained in the form of white crystals, which melted at 290° C.

reactant | ethyl 6,7-difluoroquinoline-3-carboxylate | 37.7 g | FC=1C=C2C=C(C=NC2=CC1F)C(=O)OCC | C12H9F2NO2
reactant | potassium hydroxide | 1 N | [OH-].[K+]
reactant | water | 600 cm3 | O | H2O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 6,7-difluoroquinoline-3-carboxylic acid | 30 g | FC=1C=C2C=C(C=NC2=CC1F)C(=O)O | C10H5F2NO2
